US08314094B2
2) Synthesis of 4-(azidomethyl)-6-chloro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one
6-Chloro-4-(hydroxymethyl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one (4.0 g, 14.2 mmol) was dissolved in chloroform (30 mL) and THF (15 mL), and while stirring the mixture at 0° C., 2,6-dimethylpyridine (13.2 mL, 113 mmol) and trifluoromethanesulfonic anhydride (9.6 mL, 56.8 mmol) were sequentially added thereto. After the reaction solution was stirred for 3 hours under ice-cooling, a saturated aqueous sodium hydrogen carbonate solution was added thereto under ice-cooling. Then, the solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed sequentially with a 10% aqueous citric acid solution and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was dissolved in DMF (50 mL), and sodium azide (1.53 g, 23.5 mmol) was added thereto. After the reaction solution was stirred overnight at 80° C., the temperature of the solution was brought to room temperature and water was added thereto. The solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2), whereby the objective compound (3.47 g, 80%) was obtained as a white solid.

reactant | 6-Chloro-4-(hydroxymethyl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | 14.2 mmol, 4.0 g | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CO)C1 | C10H7ClF3NO3
reactant | 2,6-dimethylpyridine | 113 mmol, 13.2 mL | CC1=NC(=CC=C1)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 56.8 mmol, 9.6 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium azide | 23.5 mmol, 1.53 g | [N-]=[N+]=[N-].[Na+]
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(azidomethyl)-6-chloro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | N(=[N+]=[N-])CC1(OC(NC2=C1C=C(C=C2)Cl)=O)C(F)(F)F | C10H6ClF3N4O2
